US06159941
1-(3-(N-(4-Bromobenzyl)-N-(pyridin-2-yl)amino)propyl)-3-(3-(morpholin-4-yl)propyl)thiourea
To a solution of N-(4-bromobenzyl)-N-(pyridin-2-yl)pro-pane-1,3-diamine (1.0 g, 3.123 mmol) in chloroform (40 ml) was added 3-morpholinopropyl isothiocyanate (593 mg, 3.123 mmol) and the reaction mixture was stirred for 20 h at reflux temperature. To the reaction mixture was added 10 drops of 3-morpholinopropyl isothiocyanate and the reaction mixture was stirred for an additional 4 h at reflux temperature. The volatiles were evaporated in vacuo and the residue (2.05 g) was dissolved in ethyl acetate (20 ml) and left over night at room temperature. The precipitate was filtered off and washed with ethyl acetate and dried affording 1.20 g (76%) of the title compound as a solid.

reactant | N-(4-bromobenzyl)-N-(pyridin-2-yl)pro-pane-1,3-diamine | 3.123 mmol, 1.0 g | BrC1=CC=C(CN(CCCN)C2=NC=CC=C2)C=C1 | C15H18BrN3
reactant | 3-morpholinopropyl isothiocyanate | 3.123 mmol, 593 mg | O1CCN(CC1)CCCN=C=S | C8H14N2OS
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 3-morpholinopropyl isothiocyanate | 10 drops | O1CCN(CC1)CCCN=C=S | C8H14N2OS
product | 1-(3-(N-(4-Bromobenzyl)-N-(pyridin-2-yl)amino)propyl)-3-(3-(morpholin-4-yl)propyl)thiourea | 1.20 g, 76% | BrC1=CC=C(CN(C2=NC=CC=C2)CCCNC(=S)NCCCN2CCOCC2)C=C1 | C23H32BrN5OS
